US04099001
(2-Oxo-1-imidazolidinyl)carbamothioic Acid, S-Phenyl Ester
3.2 ml. of (phenylthio)carbonyl chloride are dissolved in 30 ml. of dioxane and a solution of 2.63 g. of 1-amino-2-imidazolidinone in a mixture of 10 ml. of dioxane and 10 ml. of water is added. 2N sodium hydroxide solution is added dropwise at room temperature so that the pH is about 7.5-8.0. About 15 ml. of 2N sodium hydroxide are required. The dioxane is then distilled off. An oil separates which crystallizes after a short while to give 3.2 g. of (2-oxo-1-imidazolidinyl)carbamothioic acid, S-phenyl ester, m.p. 154°-159° (after recrystallization from ethyl acetate).

reactant | (phenylthio)carbonyl chloride | C1(=CC=CC=C1)SC(=O)Cl | C7H5ClOS
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 1-amino-2-imidazolidinone | NN1C(NCC1)=O | C3H7N3O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
product | (2-Oxo-1-imidazolidinyl)carbamothioic Acid, S-Phenyl Ester | O=C1N(CCN1)NC(SC1=CC=CC=C1)=O | C10H11N3O2S
